US08227462B2
5-Hydroxy-1-methoxy-6,6-dimethyl-hepta-1,4-dien-3-one
LiHMDS (1M in THF, 100 mL, 2 eq) is added dropwise to a cold (−78° C.) solution of 4-methoxy-3-buten-2-one (10 mL, 100 mmol, 2 eq) in THF (400 mL). After a 30 min stirring at −78° C., a solution of pivaloyl chloride (6.12 mL, 50 mmol) in THF (100 mL) is added. The resulting mixture is allowed to warm to it over 2 h and quenched by addition of a saturated solution of NH4Cl. THF is removed under vacuum. The concentrated mixture is extracted with Et2O. The organic phase is washed with brine, dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel column chromatography (Hex/EtOAc, 1:0→85:15) to afford 6.83 g of the title compound as a yellow oil: ESI-MS: 185.1 [M+H]+; TLC: Rf=0.87 (Hex/EtOAc, 1:1).

reactant | LiHMDS | 1M, 100 mL, 2 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-methoxy-3-buten-2-one | 100 mmol, 10 mL, 2 eq | COC=CC(C)=O | C5H8O2
reactant | pivaloyl chloride | 50 mmol, 6.12 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-Hydroxy-1-methoxy-6,6-dimethyl-hepta-1,4-dien-3-one | 6.83 g | OC(=CC(C=COC)=O)C(C)(C)C | C10H16O3
